US07465744B2
20.1 4-Methyl-5-pyridin-2-yl-4H-[1,2,4]triazole-3-thiol
15 g of pyridine-2-carboxylic acid (121.8 mmol) were dissolved in 150 ml of dimethylformamide. At room temperature, 29.6 g (181.8 mmol) of carbonyldiimidazole were slowly added, during which gas was evolved. Reaction was allowed to take place at 100° C. for 30 min, and then 25.6 g (242.7 mmol) of 4-methyl-3-thiosemicarbazide were added, and the mixture was stirred at 100° C. for a further 2 h. The reaction mixture was mixed with 300 ml of water. After cooling in an ice bath, the precipitated crystals were filtered off with suction and washed with a little water. The crystals were taken up in 390 ml of 1M sodium bicarbonate solution and heated to reflux for 3 h.

reactant | pyridine-2-carboxylic acid | 121.8 mmol, 15 g | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | carbonyldiimidazole | 181.8 mmol, 29.6 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-methyl-3-thiosemicarbazide | 242.7 mmol, 25.6 g | CNC(NN)=S | C2H7N3S
reactant | water | 300 ml | O | H2O
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 4-Methyl-5-pyridin-2-yl-4H-[1,2,4]triazole-3-thiol | CN1C(=NN=C1C1=NC=CC=C1)S | C8H8N4S
